### PR TITLE
feat: add min and max list operations

### PR DESCRIPTION
**Pull request by ecyrbe**
This PR add list `min` and `max` operations to complement `min?` and `max?` ones in the same vain as `head?` and `head`.

It was dicussed here in [zulip](https://leanprover.zulipchat.com/#narrow/channel/217875-Is-there-code-for-X.3F/topic/maximum.20of.20a.20list.20known.20to.20be.20nonempty/with/548296389)

it also add small unit tests for `min` , `max`, `min?` and `max?`

### CODE REVIEW

File: src/Init/Data/List/MinMax.lean [hunk 1]
```diff
@@ -155,6 +155,51 @@ theorem foldl_min [Min α] [Std.IdempotentOp (min : α → α → α)] [Std.Asso
...
+theorem min_eq_head {α : Type u} [Min α] {l : List α}
+    (hl : l ≠ [])
+    (h : l.Pairwise (fun a b => min a b = a)) : l.min hl = l.head hl := by
+  apply Option.some.inj
+  rw [← min?_eq_some_min, ←head?_eq_some_head]
+  exact min?_eq_head? h
+
+theorem min_mem [Min α] [MinEqOr α] {l : List α} {hl : l ≠ []} :
+    l.min hl ∈ l := by
+  exact min?_mem (min?_eq_some_min hl)
```
Comment (Rob23oba) [inline src/Init/Data/List/MinMax.lean]:
```suggestion
theorem min_mem [Min α] [MinEqOr α] {l : List α} (hl : l ≠ []) : l.min hl ∈ l :=
  min?_mem (min?_eq_some_min hl)
```
avoid `by exact` and make `hl` explicit

File: src/Init/Data/List/MinMax.lean [hunk 2]
```diff
@@ -155,6 +155,51 @@ theorem foldl_min [Min α] [Std.IdempotentOp (min : α → α → α)] [Std.Asso
...
+
+theorem min?_eq_some_min [Min α] : {l : List α} → (hl : l ≠ []) →
+    l.min? = some (l.min hl)
+  | a::as, _ => by simp [List.min, List.min?_cons']
+
+theorem min_eq_head {α : Type u} [Min α] {l : List α}
+    (hl : l ≠ [])
+    (h : l.Pairwise (fun a b => min a b = a)) : l.min hl = l.head hl := by
+  apply Option.some.inj
+  rw [← min?_eq_some_min, ←head?_eq_some_head]
```
Comment (Rob23oba) [inline src/Init/Data/List/MinMax.lean]:
```suggestion
  rw [← min?_eq_some_min, ← head?_eq_some_head]
```

File: src/Init/Data/List/MinMax.lean [hunk 3]
```diff
@@ -155,6 +155,51 @@ theorem foldl_min [Min α] [Std.IdempotentOp (min : α → α → α)] [Std.Asso
...
+  exact min?_eq_head? h
+
+theorem min_mem [Min α] [MinEqOr α] {l : List α} {hl : l ≠ []} :
+    l.min hl ∈ l := by
+  exact min?_mem (min?_eq_some_min hl)
+
+protected theorem le_min_iff [Min α] [LE α] [LawfulOrderInf α]
+    {l : List α} {hl : l ≠ []} : ∀ {x}, x ≤ l.min hl ↔ ∀ b, b ∈ l → x ≤ b := by
+  exact le_min?_iff (min?_eq_some_min hl)
```
Comment (Rob23oba) [inline src/Init/Data/List/MinMax.lean]:
```suggestion
protected theorem le_min_iff [Min α] [LE α] [LawfulOrderInf α]
    {l : List α} {hl : l ≠ []} : ∀ {x}, x ≤ l.min hl ↔ ∀ b, b ∈ l → x ≤ b :=
  le_min?_iff (min?_eq_some_min hl)
```
same as above

File: src/Init/Data/List/MinMax.lean [hunk 4]
```diff
@@ -155,6 +155,51 @@ theorem foldl_min [Min α] [Std.IdempotentOp (min : α → α → α)] [Std.Asso
...
+
+theorem min_iff  [Min α] [LE α] {l : List α} [IsLinearOrder α] [LawfulOrderMin α] {hl : l ≠ []} :
```
Comment (Rob23oba) [inline src/Init/Data/List/MinMax.lean]:
```suggestion
theorem min_eq_iff [Min α] [LE α] {l : List α} [IsLinearOrder α] [LawfulOrderMin α] {hl : l ≠ []} :
```

File: src/Init/Data/List/MinMax.lean [hunk 5]
```diff
@@ -155,6 +155,51 @@ theorem foldl_min [Min α] [Std.IdempotentOp (min : α → α → α)] [Std.Asso
...
   cases l <;> simp [min?, foldl_assoc, Std.IdempotentOp.idempotent]
 
+/-! ### min -/
+
+theorem min?_eq_some_min [Min α] : {l : List α} → (hl : l ≠ []) →
+    l.min? = some (l.min hl)
+  | a::as, _ => by simp [List.min, List.min?_cons']
+
+theorem min_eq_head {α : Type u} [Min α] {l : List α}
+    (hl : l ≠ [])
```
Comment (Rob23oba) [inline src/Init/Data/List/MinMax.lean]:
```suggestion
theorem min_eq_head {α : Type u} [Min α] {l : List α} (hl : l ≠ [])
```

File: src/Init/Data/List/MinMax.lean [hunk 6]
```diff
@@ -155,6 +155,51 @@ theorem foldl_min [Min α] [Std.IdempotentOp (min : α → α → α)] [Std.Asso
...
+theorem min_iff  [Min α] [LE α] {l : List α} [IsLinearOrder α] [LawfulOrderMin α] {hl : l ≠ []} :
+    l.min hl = a ↔ a ∈ l ∧ ∀ b, b ∈ l → a ≤ b := by
+  simpa [min?_eq_some_min hl] using (min?_eq_some_iff (xs := l))
+
+theorem min_eq_min_attach [Min α] [MinEqOr α] {l : List α} {hl : l ≠ []} :
+    l.min hl = Subtype.val (l.attach.min (List.attach_ne_nil_iff.mpr hl)) := by
+  simpa [min?_eq_some_min hl, min?_eq_some_min (List.attach_ne_nil_iff.mpr hl)]
+    using (min?_eq_min?_attach (xs := l))
+
+theorem min_iff_subtype [Min α] [LE α] {l : List α} {hl : l ≠ []}
```
Comment (Rob23oba) [inline src/Init/Data/List/MinMax.lean]:
```suggestion
theorem min_eq_iff_subtype [Min α] [LE α] {l : List α} {hl : l ≠ []}
```

File: src/Init/Data/List/MinMax.lean [hunk 7]
```diff
@@ -155,6 +155,51 @@ theorem foldl_min [Min α] [Std.IdempotentOp (min : α → α → α)] [Std.Asso
...
+    [MinEqOr α] [IsLinearOrder (Subtype (· ∈ l))] [LawfulOrderMin (Subtype (· ∈ l))] :
+    l.min hl = a ↔ a ∈ l ∧ ∀ b, b ∈ l → a ≤ b := by
+  simpa [min?_eq_some_min hl] using (min?_eq_some_iff_subtype (xs := l))
+
+theorem min_replicate [Min α] [MinEqOr α] {n : Nat} {a : α} (h: replicate n a ≠ []) :
```
Comment (Rob23oba) [inline src/Init/Data/List/MinMax.lean]:
```suggestion
@[simp] theorem min_replicate [Min α] [MinEqOr α] {n : Nat} {a : α} (h : replicate n a ≠ []) :
```

File: src/Init/Data/List/MinMax.lean [hunk 8]
```diff
@@ -296,4 +341,49 @@ theorem foldl_max [Max α] [Std.IdempotentOp (max : α → α → α)] [Std.Asso
...
   cases l <;> simp [max?, foldl_assoc, Std.IdempotentOp.idempotent]
 
+/-! ### max -/
+
+theorem max?_eq_some_max [Max α] : {l : List α} → (hl : l ≠ []) →
+    l.max? = some (l.max hl)
+  | a::as, _ => by simp [List.max, List.max?_cons']
+
+theorem max_eq_head {α : Type u} [Max α] {l : List α}
+    (hl : l ≠ [])
```
Comment (Rob23oba) [inline src/Init/Data/List/MinMax.lean]:
```suggestion
theorem max_eq_head {α : Type u} [Max α] {l : List α} (hl : l ≠ [])
```
same as above

File: src/Init/Data/List/MinMax.lean [hunk 9]
```diff
@@ -296,4 +341,49 @@ theorem foldl_max [Max α] [Std.IdempotentOp (max : α → α → α)] [Std.Asso
...
+    (h : l.Pairwise (fun a b => max a b = a)) : l.max hl = l.head hl := by
+  apply Option.some.inj
+  rw [← max?_eq_some_max, ←head?_eq_some_head]
```
Comment (Rob23oba) [inline src/Init/Data/List/MinMax.lean]:
```suggestion
  rw [← max?_eq_some_max, ← head?_eq_some_head]
```

File: src/Init/Data/List/MinMax.lean [hunk 10]
```diff
@@ -296,4 +341,49 @@ theorem foldl_max [Max α] [Std.IdempotentOp (max : α → α → α)] [Std.Asso
...
+  exact max?_eq_head? h
+
+theorem max_mem [Max α] [MaxEqOr α] {l : List α} {hl : l ≠ []} :
+    l.max hl ∈ l := by
+  exact max?_mem (max?_eq_some_max hl)
```
Comment (Rob23oba) [inline src/Init/Data/List/MinMax.lean]:
```suggestion
theorem max_mem [Max α] [MaxEqOr α] {l : List α} (hl : l ≠ []) : l.max hl ∈ l :=
  max?_mem (max?_eq_some_max hl)
```
same as above

File: src/Init/Data/List/MinMax.lean [hunk 11]
```diff
@@ -296,4 +341,49 @@ theorem foldl_max [Max α] [Std.IdempotentOp (max : α → α → α)] [Std.Asso
...
+
+protected theorem max_le_iff [Max α] [LE α] [LawfulOrderSup α]
+    {l : List α} {hl : l ≠ []} : ∀ {x}, l.max hl ≤ x ↔ ∀ b, b ∈ l → b ≤ x := by
+  exact max?_le_iff (max?_eq_some_max hl)
```
Comment (Rob23oba) [inline src/Init/Data/List/MinMax.lean]:
```suggestion
    {l : List α} {hl : l ≠ []} : ∀ {x}, l.max hl ≤ x ↔ ∀ b, b ∈ l → b ≤ x :=
  max?_le_iff (max?_eq_some_max hl)
```

File: src/Init/Data/List/MinMax.lean [hunk 12]
```diff
@@ -296,4 +341,49 @@ theorem foldl_max [Max α] [Std.IdempotentOp (max : α → α → α)] [Std.Asso
...
+
+theorem max_iff  [Max α] [LE α] {l : List α} [IsLinearOrder α] [LawfulOrderMax α] {hl : l ≠ []} :
```
Comment (Rob23oba) [inline src/Init/Data/List/MinMax.lean]:
```suggestion
theorem max_eq_iff [Max α] [LE α] {l : List α} [IsLinearOrder α] [LawfulOrderMax α] {hl : l ≠ []} :
```

File: src/Init/Data/List/MinMax.lean [hunk 13]
```diff
@@ -296,4 +341,49 @@ theorem foldl_max [Max α] [Std.IdempotentOp (max : α → α → α)] [Std.Asso
...
+    l.max hl = a ↔ a ∈ l ∧ ∀ b, b ∈ l → b ≤ a := by
+  simpa [max?_eq_some_max hl] using (max?_eq_some_iff (xs := l))
+
+theorem max_eq_max_attach [Max α] [MaxEqOr α] {l : List α} {hl : l ≠ []} :
+    l.max hl = Subtype.val (l.attach.max (List.attach_ne_nil_iff.mpr hl)) := by
+  simpa [max?_eq_some_max hl, max?_eq_some_max (List.attach_ne_nil_iff.mpr hl)]
+    using (max?_eq_max?_attach (xs := l))
+
+theorem max_iff_subtype [Max α] [LE α] {l : List α} {hl : l ≠ []}
```
Comment (Rob23oba) [inline src/Init/Data/List/MinMax.lean]:
```suggestion
theorem max_eq_iff_subtype [Max α] [LE α] {l : List α} {hl : l ≠ []}
```

File: src/Init/Data/List/MinMax.lean [hunk 14]
```diff
@@ -296,4 +341,49 @@ theorem foldl_max [Max α] [Std.IdempotentOp (max : α → α → α)] [Std.Asso
...
+    [MaxEqOr α] [IsLinearOrder (Subtype (· ∈ l))] [LawfulOrderMax (Subtype (· ∈ l))] :
+    l.max hl = a ↔ a ∈ l ∧ ∀ b, b ∈ l → b ≤ a := by
+  simpa [max?_eq_some_max hl] using (max?_eq_some_iff_subtype (xs := l))
+
+theorem max_replicate [Max α] [MaxEqOr α] {n : Nat} {a : α} (h: replicate n a ≠ []) :
```
Comment (Rob23oba) [inline src/Init/Data/List/MinMax.lean]:
```suggestion
@[simp] theorem max_replicate [Max α] [MaxEqOr α] {n : Nat} {a : α} (h : replicate n a ≠ []) :
```

File: tests/lean/run/list_minmax.lean [hunk 15]
```diff
@@ -0,0 +1,89 @@
+/-! ### min? -/
```
Comment (Rob23oba) [inline tests/lean/run/list_minmax.lean]: I don't think we need tests, the lemmas should be sufficient

File: src/Init/Data/List/Basic.lean [hunk 16]
```diff
@@ -2086,6 +2086,18 @@ def min? [Min α] : List α → Option α
   | []    => none
   | a::as => some <| as.foldl min a
 
+/-! ### min -/
+
+/--
+Returns the smallest element of a non empty list.
```
Comment (Rob23oba) [inline src/Init/Data/List/Basic.lean]:
```suggestion
Returns the smallest element of a non-empty list.
```

File: src/Init/Data/List/Basic.lean [hunk 17]
```diff
@@ -2086,6 +2086,18 @@ def min? [Min α] : List α → Option α
...
+
+Examples:
+* `[4].min (by decide) = 4`
+* `[1, 4, 2, 10, 6].min (by decide) = 1`
+-/
+protected def min [Min α] : (l: List α) → (h: l ≠ []) → α
```
Comment (Rob23oba) [inline src/Init/Data/List/Basic.lean]:
```suggestion
protected def min [Min α] : (l : List α) → (h : l ≠ []) → α
```

File: src/Init/Data/List/Basic.lean [hunk 18]
```diff
@@ -2100,6 +2112,17 @@ def max? [Max α] : List α → Option α
   | []    => none
   | a::as => some <| as.foldl max a
 
+/-! ### max -/
+
+/--
+Returns the largest element of a non empty list.
+Examples:
```
Comment (Rob23oba) [inline src/Init/Data/List/Basic.lean]:
```suggestion
Returns the largest element of a non-empty list.

Examples:
```

File: src/Init/Data/List/Basic.lean [hunk 19]
```diff
@@ -2100,6 +2112,17 @@ def max? [Max α] : List α → Option α
...
+* `[4].max (by decide) = 4`
+* `[1, 4, 2, 10, 6].max (by decide) = 10`
+-/
+protected def max [Max α] : (l: List α) → (h: l ≠ []) → α
```
Comment (Rob23oba) [inline src/Init/Data/List/Basic.lean]:
```suggestion
protected def max [Max α] : (l : List α) → (h : l ≠ []) → α
```

**Review by Rob23oba — CHANGES_REQUESTED** [review]
Some small changes regarding style and naming convention.

**Comment by ghost** [comment]
Mathlib CI status ([docs](https://leanprover-community.github.io/contribute/tags_and_branches.html)):
- ❗ Mathlib CI can not be attempted yet, as the `nightly-testing-2025-11-02` tag does not exist there yet. We will retry when you push more commits. If you rebase your branch onto `nightly-with-mathlib`, Mathlib CI should run now. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-11-02 11:52:19)
- ✅ Mathlib branch [lean-pr-testing-11060](https://github.com/leanprover-community/mathlib4-nightly-testing/compare/nightly-testing...lean-pr-testing-11060) has successfully built against this PR. (2025-11-03 13:01:15) [View Log](https://github.com/leanprover-community/mathlib4-nightly-testing/actions/runs/19033809313)

File: tests/lean/run/list_minmax.lean (hunk 15 above)
Comment (ecyrbe) [reply tests/lean/run/list_minmax.lean]: the idea behind adding these tests is to check that min and max are computable. something that no lemmas can check.
But if this argument don't hold for the core team, i can remove them.

**Comment by ecyrbe** [comment]
@Rob23oba thanks for the review

File: src/Init/Data/List/MinMax.lean [hunk 20]
```diff
@@ -155,6 +155,49 @@ theorem foldl_min [Min α] [Std.IdempotentOp (min : α → α → α)] [Std.Asso
...
+  le_min?_iff (min?_eq_some_min hl)
+
+theorem min_eq_iff  [Min α] [LE α] {l : List α} [IsLinearOrder α] [LawfulOrderMin α] (hl : l ≠ []) :
+    l.min hl = a ↔ a ∈ l ∧ ∀ b, b ∈ l → a ≤ b := by
+  simpa [min?_eq_some_min hl] using (min?_eq_some_iff (xs := l))
+
+theorem min_eq_min_attach [Min α] [MinEqOr α] {l : List α} (hl : l ≠ []) :
+    l.min hl = Subtype.val (l.attach.min (List.attach_ne_nil_iff.mpr hl)) := by
+  simpa [min?_eq_some_min hl, min?_eq_some_min (List.attach_ne_nil_iff.mpr hl)]
+    using (min?_eq_min?_attach (xs := l))
```
Comment (kim-em) [inline src/Init/Data/List/MinMax.lean]: I'm not sure what this theorem is for.

I wonder if the version with `l.attach.min ...` on the left-hand side (and no `Subtype.val`) might be more useful (even as a simp lemma).

File: src/Init/Data/List/MinMax.lean [hunk 21]
```diff
@@ -155,6 +155,49 @@ theorem foldl_min [Min α] [Std.IdempotentOp (min : α → α → α)] [Std.Asso
     {l : List α} {a : α} : l.foldl (init := a) min = min a (l.min?.getD a) := by
   cases l <;> simp [min?, foldl_assoc, Std.IdempotentOp.idempotent]
 
+/-! ### min -/
+
+theorem min?_eq_some_min [Min α] : {l : List α} → (hl : l ≠ []) →
+    l.min? = some (l.min hl)
+  | a::as, _ => by simp [List.min, List.min?_cons']
+
```
Comment (kim-em) [inline src/Init/Data/List/MinMax.lean:166]: Could we also have `min_eq_get_min?`?

File: src/Init/Data/List/MinMax.lean [hunk 22]
```diff
@@ -155,6 +155,49 @@ theorem foldl_min [Min α] [Std.IdempotentOp (min : α → α → α)] [Std.Asso
...
+theorem min_eq_min_attach [Min α] [MinEqOr α] {l : List α} (hl : l ≠ []) :
+    l.min hl = Subtype.val (l.attach.min (List.attach_ne_nil_iff.mpr hl)) := by
+  simpa [min?_eq_some_min hl, min?_eq_some_min (List.attach_ne_nil_iff.mpr hl)]
+    using (min?_eq_min?_attach (xs := l))
+
+theorem min_eq_iff_subtype [Min α] [LE α] {l : List α} (hl : l ≠ [])
+    [MinEqOr α] [IsLinearOrder (Subtype (· ∈ l))] [LawfulOrderMin (Subtype (· ∈ l))] :
+    l.min hl = a ↔ a ∈ l ∧ ∀ b, b ∈ l → a ≤ b := by
+  simpa [min?_eq_some_min hl] using (min?_eq_some_iff_subtype (xs := l))
```
Comment (kim-em) [inline src/Init/Data/List/MinMax.lean]: Let's not have this theorem. The version for `min?` you're copying probably should have been a private theorem to begin with, it's only used inside Data/Internal/List/Associative. @datokrat?

File: tests/lean/run/list_minmax.lean (hunk 15 above)
Comment (kim-em) [reply tests/lean/run/list_minmax.lean]: Yeah, let's just drop.

File: src/Init/Data/List/MinMax.lean (hunk 21 above)
Comment (ecyrbe) [reply src/Init/Data/List/MinMax.lean:166]: yes, i'll add it.

File: src/Init/Data/List/MinMax.lean (hunk 20 above)
Comment (ecyrbe) [reply src/Init/Data/List/MinMax.lean]: i can remove it.

**Comment by ecyrbe** [comment]
@kim-em added all @TwoFX lemmas from the zullip conversation and cleaned lemmas and tests as suggested.

File: src/Init/Data/List/MinMax.lean [hunk 23]
```diff
@@ -155,6 +158,48 @@ theorem foldl_min [Min α] [Std.IdempotentOp (min : α → α → α)] [Std.Asso
...
+theorem min_le_of_mem [Min α] [LE α] [Std.IsLinearOrder α] [Std.LawfulOrderMin α]
+    {l : List α} {a : α} (ha : a ∈ l) :
+    l.min (ne_nil_of_mem ha) ≤ a :=
+  (min?_eq_some_iff.mp (min?_eq_some_min (List.ne_nil_of_mem ha))).right a ha
+
+protected theorem le_min_iff [Min α] [LE α] [LawfulOrderInf α]
+    {l : List α} (hl : l ≠ []) : ∀ {x}, x ≤ l.min hl ↔ ∀ b, b ∈ l → x ≤ b :=
+  le_min?_iff (min?_eq_some_min hl)
+
+theorem min_eq_iff  [Min α] [LE α] {l : List α} [IsLinearOrder α] [LawfulOrderMin α] (hl : l ≠ []) :
```
Comment (wrenna-robson) [inline src/Init/Data/List/MinMax.lean]: Think you have an extra space after `min_eq_iff` here.

Comment (ecyrbe) [reply src/Init/Data/List/MinMax.lean]: thanks, fixed on both min and max

Comment (ecyrbe) [reply src/Init/Data/List/MinMax.lean]: wrenna, do you know what tool i can use to automate this kind of detection before commit ?

**Review by TwoFX — APPROVED** [review]
Thanks!
